US07273936B2
To a degassed solution of 5-benzo[1,3]dioxol-5-yl-4-bromo-oxazole (50 mg, 0.19 mmol) and tetrakis(triphenylphosphine)palladium(0) (11 mg, 0.009 mmol, 0.05 equiv) in THF (2 mL) was added 2-zinc bromo -pyridine (1 mL, 0.5 M in THF, 0.500 mmol, 2.6 equiv). The resulting reaction mixture was heated to reflux overnight, cooled to ambient temperature, treated with saturated aqueous ammonium chloride, and diluted with ethyl acetate. The organic layer was washed with saturated aqueous ammonium chloride, dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography (50% ethyl acetate in hexane) provided 2-(5-Benzo[1,3]dioxol-5-yl-oxazol4-yl)-pyridine (22.7 mg, 46%). [LCMS: Rt=1.79 min, M+H=267.1]

reactant | 5-benzo[1,3]dioxol-5-yl-4-bromo-oxazole | 0.19 mmol, 50 mg | O1COC2=C1C=CC(=C2)C2=C(N=CO2)Br | C10H6BrNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 11 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-Benzo[1,3]dioxol-5-yl-oxazol4-yl)-pyridine | 22.7 mg, 46% | O1COC2=C1C=CC(=C2)C2=C(N=CO2)C2=NC=CC=C2 | C15H10N2O3
